US07579355B2
A mixture of tert-butyl 4-(4-amino-1H-pyrazolo[3,4-d]pyrimidin-1-yl)piperidine-1-carboxylate (4A-2; 1.30 g, 4.08 mmol) in 4M HCl dioxane (12 mL) was stirred for 1 hr. The reaction was concentrated, triturated with ether to give 4-amino-1-piperidinium-4-yl-1H-pyrazolo[3,4-d]pyrimidin-2-ium dichloride. For free base: dissolved the above salt in H2O and passed through Dowex 1X2-400, ion-exchange resin (—OH form). The resin was washed with H2O then MeOH. The filtrate was concentrated and dried in vacuo to give pure free base. 1H-NMR (500 MHz, d6 DMSO) δ 8.14 (s, 1H), 8.07 (s, 1H), 7.64 (bs, 2H), 4.57-4.67 (m, 1H), 3.05 (d, J=12.46 2H), 2.55-2.67 (m, 2H), 2.06 (bs, 1H), 1.90-2.12 (m, 2H), 1.73-1.80 (m, 2H). LRMS m/z (M+H) Calcd: 219.1, found: 219.1.

reactant | tert-butyl 4-(4-amino-1H-pyrazolo[3,4-d]pyrimidin-1-yl)piperidine-1-carboxylate | 4.08 mmol, 1.30 g | NC1=C2C(=NC=N1)N(N=C2)C2CCN(CC2)C(=O)OC(C)(C)C | C15H22N6O2
reactant | HCl dioxane | 4M, 12 mL | O1CCOCC1.Cl
product | 4-amino-1-piperidinium-4-yl-1H-pyrazolo[3,4-d]pyrimidin-2-ium dichloride | [Cl-].[Cl-].NC1=C2C(=NC=N1)N([NH+]=C2)C2CC[NH2+]CC2 | InChI=1S/C10H14N6.2ClH/c11-9-8-5-15-16(10(8)14-6-13-9)7-1-3-12-4-2-7;;/h5-7,12H,1-4H2,(H2,11,13,14);2*1H
